US09388176B2
3-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)benzoic acid
A mixture of ethyl 3-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)benzoate (51 mg, 0.18 mmol) and 0.5 mL 1.0 M NaOH in 2.0 mL dioxane was heated at 70° C. for 2.3 hours. The pH of the reaction was adjusted to pH 5 using glacial acetic acid. The mixture was evaporated and then chased with MeOH to give a yellow solid film. An impure lot from a previous reaction was combined, and this material triturated with EtOAc. The remaining solid was dissolved in MeOH, and then Bio-rad AG1-X8 basic resin (hydroxide form) was added. The mixture was filtered and the resin rinsed with MeOH and CH2Cl2. The product was eluted from the resin using 10% formic acid in MeOH. The solvent was evaporated, chased with MeOH and EtOAc to give the title compound (used as is for the next step) as a yellow solid (49 mg). 1H NMR (CD3OD) δ: 8.42 (s, 1H), 8.29 (d, J=5.3 Hz, 1H), 7.68-7.70 (m, 1H), 7.48-7.51 (m, 1H), 7.33-7.39 (m, 1H), 7.30 (dd, J=2.5, 1.3 Hz, 1H), 7.26 (d, J=4.7 Hz, 1H), 4.48 (s, 2H), 3.64 (t, J=5.9 Hz, 2H), 3.04 (t, J=5.6 Hz, 2H).

reactant | ethyl 3-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)benzoate | 0.18 mmol, 51 mg | C1N(CCC2=CC=NC=C12)C=1C=C(C(=O)OCC)C=CC1 | C17H18N2O2
reactant | NaOH | 1.0 M, 0.5 mL | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 3-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)benzoic acid | C1N(CCC2=CC=NC=C12)C=1C=C(C(=O)O)C=CC1 | C15H14N2O2
